US08685986B2
4-(c) (6-{(4-Fluorobenzenesulfonyl)[4-(thiazol-2-yl)benzyl]aminomethyl}pyridin-2-ylamino)acetic Acid
Reaction and post-treatment were carried out in the same manner as in Example 2-(c) except for using (6-{(4-fluorobenzenesulfonyl)[4-(thiazol-2-yl)benzyl]-aminomethyl}pyridin-2-ylamino)acetic acid hydrochloride (148 mg, 0.248 mmol) obtained in Example 4-(b) in place of (6-{(pyridin-3-ylsulfonyl)[4-(thiazol-2-yl)benzyl]aminomethyl}pyridin-2-ylamino)acetic acid hydrochloride to afford the title compound (122 mg) as a pale brown solid. (Yield: 95%)

reactant | (6-{(4-fluorobenzenesulfonyl)[4-(thiazol-2-yl)benzyl]-aminomethyl}pyridin-2-ylamino)acetic acid hydrochloride | 0.248 mmol, 148 mg | Cl.FC1=CC=C(C=C1)S(=O)(=O)C(C1=CC=CC(=N1)NCC(=O)O)(N)CC1=CC=C(C=C1)C=1SC=CN1
reactant | (6-{(pyridin-3-ylsulfonyl)[4-(thiazol-2-yl)benzyl]aminomethyl}pyridin-2-ylamino)acetic acid hydrochloride | Cl.N1=CC(=CC=C1)S(=O)(=O)C(C1=CC=CC(=N1)NCC(=O)O)NCC1=CC=C(C=C1)C=1SC=CN1
product | (6-{(4-Fluorobenzenesulfonyl)[4-(thiazol-2-yl)benzyl]aminomethyl}pyridin-2-ylamino)acetic Acid | 122 mg, Yield: 95% | FC1=CC=C(C=C1)S(=O)(=O)C(C1=CC=CC(=N1)NCC(=O)O)NCC1=CC=C(C=C1)C=1SC=CN1 | C24H21FN4O4S2
